### ISSUE TITLE
Lean kernel replay rejects any theorem whose proof reduces a string literal

### ISSUE THREAD

**Issue by ASamSam** [leanprover/comparator#93]
**Title:** `runBuiltinKernel` rejects proofs that reduce a string literal (`unknown constant 'Char.ofNat'`, or a spurious type mismatch)

Comparator's final step, the replay through the Lean kernel, rejects solutions that
the Lean compiler, `lean4checker` and nanoda all accept, whenever the proof has to
reduce a string literal. A `match` on a string literal and a `decide` on string
equality both trigger it; the same shapes over `Nat` literals pass.

Versions: comparator, `lean4export` and the toolchain all at `v4.34.0`; also
reproduced at `v4.35.0-rc1`. `nanoda_lib` at 4c544ed. Linux (WSL2, Ubuntu 24.04).

## Reproduction

An empty package, no dependencies. `lakefile.toml`:

```toml
name = "repro"

[[lean_lib]]
name = "Repro"
globs = ["Repro.+"]
```

`Repro/StrC.lean` (challenge):

```lean
def strTag (s : String) : Nat :=
  match s with
  | "live" => 1
  | _ => 0

theorem strTag_live : strTag "live" = 1 := by sorry
```

`Repro/StrS.lean` (solution): the same file with `:= rfl` in place of `:= by sorry`.

`str.json`:

```json
{
    "challenge_module": "Repro.StrC",
    "solution_module": "Repro.StrS",
    "theorem_names": ["strTag_live"],
    "permitted_axioms": ["propext", "Quot.sound"],
    "external_kernels": { "nanoda": ["nanoda_bin"] }
}
```

`lake env comparator str.json`:

```
Running nanoda kernel on solution
nanoda kernel accepts the solution
Running Lean default kernel on solution.
Lean default kernel rejects the solution
uncaught exception: while replaying declaration 'strTag_live':
(kernel) declaration type mismatch, 'strTag_live' has type
  @Eq Nat (strTag "live") (strTag "live")
but it is expected to have type
  @Eq Nat (strTag "live") 1
```

## Second shape, clearer error

`Repro/EqC.lean`: `theorem str_ne : ("live" = "dead") = False := by sorry`,
solution with `:= by decide`. Same config with `"theorem_names": ["str_ne"]`:

```
nanoda kernel accepts the solution
Lean default kernel rejects the solution
uncaught exception: while replaying declaration 'str_ne':
(kernel) unknown constant 'Char.ofNat'
```

## Control: the same shape over `Nat` passes

```lean
def natTag (n : Nat) : Nat :=
  match n with
  | 5 => 1
  | _ => 0

theorem natTag_five : natTag 5 = 1 := rfl
```

```
nanoda kernel accepts the solution
Lean default kernel accepts the solution
Your solution is okay!
```

Only the literal differs.

## What rules out the obvious explanations

- The solution files compile normally, so the elaborator and the kernel accept
  these proofs in an ordinary environment.
- `lake env leanchecker Repro.StrS` replays the compiled module through the kernel
  and accepts it. The kernel is fine; the export/parse/replay path is not.
- nanoda accepts the very same export, so the export carries what a kernel needs.
- `Char.ofNat` *is* in the export. Parsing the NDJSON of the `str_ne` case gives
  365 declaration records, among them `Char.ofNat`, `Char.ofNatAux`,
  `Char.ofNat._proof_1`, `String.ofList` and `String.decEq` — yet replay reports
  `unknown constant 'Char.ofNat'`.

## Cause

`Lean/Replay.lean:74` decides what a declaration needs before adding it:

```lean
partial def replayConstant (name : Name) : M Unit := do
  if ← isTodo name then
    let some ci := (← read).newConstants[name]? | unreachable!
    replayConstants ci.getUsedConstantsAsSet
```

The dependencies are the constants the declaration *mentions*. A string literal
mentions nothing: `Expr.lit (.strVal "live")` is an atom. `Char.ofNat` and
`String.ofList` are needed not to read it but to *reduce* it, and by then they are
not in the environment. Hence the two symptoms: `unknown constant` where the
expansion is forced, and a failure to reduce — reported as a type mismatch — where
it is not. `Nat` literals are reduced by the kernel's own arithmetic and need no
constants, which is why the control passes.

`lean4checker` does not hit this because it replays into an environment whose
imports are already loaded, so those constants happen to be present. Comparator
replays into `Lean.mkEmptyEnvironment`, by design, and so meets the gap first.

A fix could sit on either side: comparator seeding the kernel environment with the
constants literal expansion needs, or `Lean.Replay` treating them as implicit
dependencies of every declaration.

## Impact

Any development that distinguishes cases by string literals, which is normal in
modelling work, cannot use comparator's Lean-kernel step at all. The other five
steps, including statement comparison and the external kernel, work.
